US04895872
5-(3,5-Dioxohexyl) Tetrazole
A mixture of the 3,5-dioxohexylcyanide (2.78 gm; 20 mmole), lithium azide (1.08 gm; 22 mmole) and sulfuric acid (one drop) in 10 ml dry dimethylformamide is heated to 100-120 degrees. Progress of the reaction may be checked by TLC (silica gel; chloroform:methanol 97:3). When no starting material remaines, the reaction is cooled and 20 ml of water added. The reaction is taken to dryness under reduced pressure and the residue fractionated by silica gel flash column chromatography using methylene chloride: glac, acetic acid:methanol 100:3:3 as eluant. Fractions containing the product may be pooled and concentrated.

reactant | 3,5-dioxohexylcyanide | 20 mmole, 2.78 gm | O=C(CCC#N)CC(C)=O | C7H9NO2
reactant | lithium azide | 22 mmole, 1.08 gm | [N-]=[N+]=[N-].[Li+]
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
reactant | water | 20 ml | O | H2O
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | acetic acid methanol | C(C)(=O)O.CO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-(3,5-Dioxohexyl) Tetrazole | O=C(CCC1=NN=NN1)CC(C)=O | C7H10N4O2
